US09102669B2
2-(1-(6-(4-(6-fluoroindolin-1-yl)piperidin-1-yl)pyridazin-3-yl)-1H-pyrazol-4-yl)ethanol (Compound #43)
The title compound was prepared following the procedure as described in Example 14, reacting 4-(2-hydroxyethyl)pyrazole, 3,6-dichloropyridazine, and 6-fluoro-1-(piperidin-4-yl)indoline.

reactant | 4-(2-hydroxyethyl)pyrazole | OCCC=1C=NNC1 | C5H8N2O
reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 6-fluoro-1-(piperidin-4-yl)indoline | FC1=CC=C2CCN(C2=C1)C1CCNCC1 | C13H17FN2
product | 2-(1-(6-(4-(6-fluoroindolin-1-yl)piperidin-1-yl)pyridazin-3-yl)-1H-pyrazol-4-yl)ethanol | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C1=CC=C(N=N1)N1N=CC(=C1)CCO | C22H25FN6O
